US06458772B1
a) 2′,3′-Dideoxy-3′-fluoro-5′-O-[2,3-bis-(N-CBZ-L-valyloxy)propanoyl]guanosine (MSS-138)
A mixture of 2′, 3′-dideoxy-3′-fluoroguanosine (2.15 g, 8 mmole), 2,3-bis-(N-CBZ-L-valyloxy)-propanoic acid (6.2 g, 10.8 mmole), DMAP (244 mg, 2 mmole) and HOBT (1.46 g, 10.8 mmole) was coevaporated two times with DMF and reduced to about 120 mL. DCC (2.48 g, 12 mmole) was added and the mixture was stirred for two days at room temperature. The mixture was filtered and the solution was evaporated under reduced pressure. 150 ml ethyl acetate was added and the organic phase was washed twice with 5% acetic acid, with 5% sodium hydrogen carbonate and with water. The organic phase was dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by silica gel column chromatography. Yield: 2.25 g=35%

reactant | 2′, 3′-dideoxy-3′-fluoroguanosine | 8 mmole, 2.15 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(=O)NC(N)=NC12 | C10H12FN5O3
reactant | 2,3-bis-(N-CBZ-L-valyloxy)-propanoic acid | 10.8 mmole, 6.2 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OC(C(=O)O)COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O | C29H36N2O10
reactant | HOBT | 10.8 mmole, 1.46 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 12 mmole, 2.48 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 2 mmole, 244 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2′,3′-Dideoxy-3′-fluoro-5′-O-[2,3-bis-(N-CBZ-L-valyloxy)propanoyl]guanosine | F[C@H]1C[C@@H](O[C@@H]1COC(C(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)OC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O)N1C=NC=2C(=O)NC(N)=NC12 | C39H46FN7O12
